US07517944B2
Bisphenol A was dissolved in an aqueous sodium hydroxide solution having a concentration of 6% by weight to obtain an aqueous bisphenol A-sodium hydroxide solution having a concentration of 13.5% by weight. Using methylene chloride as an organic solvent, p-tert-butylphenol (PTBP) as a molecular weight controlling agent was dissolved therein to obtain a PTBP solution having a concentration of 25% by weight.

reactant | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydroxide | [OH-].[Na+]
product | bisphenol A sodium hydroxide | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.[OH-].[Na+] | InChI=1S/C15H16O2.Na.H2O/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;;/h3-10,16-17H,1-2H3;;1H2/q;+1;/p-1
